US08314092B2
Add tin dichloride (3 equiv; 3.02 g, 15.77 mmol) in 5M hydrochloric acid (20 mL, 100 mmol) to ethyl 1-(5-chloro-2-nitrobenzyl)-4-(trifluoromethyl)-1H-pyrrole-2-carboxylate (1 equiv; 1.98 g, 5.26 mmoles) and ethanol (100 mL) at 50° C. Heat overnight and then for a further 26 h, remove most of the ethanol in vacuo and dilute the resultant solution with water and collect the resultant precipitate by filtration, wash well with water and dry in vacuo at 40° C. Absorb the solid onto silica, chromatograph eluting with DCM/methanol (5:95) to give uncyclised amino ester (0.260 g) and 7-chloro-2-(trifluoromethyl)-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one (0.613 g). Heat the uncyclised ester in a mixture of 5M hydrochloric acid (10 mL, 50 mmol) for 80 h. Remove the ethanol in vacuo and collect the resultant precipitated solid by filtration and wash with water to give 7-chloro-2-(trifluoromethyl)-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one (0.17 g). Combine with earlier 7-chloro-2-(trifluoromethyl)-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one to give (0.794 g, 50% yield). MS (m/z): 300.99 (M+1).

reactant | tin dichloride | 15.77 mmol, 3.02 g, 3 equiv | [Sn](Cl)Cl
reactant | hydrochloric acid | 100 mmol, 5M, 20 mL | Cl | ClH
reactant | ethyl 1-(5-chloro-2-nitrobenzyl)-4-(trifluoromethyl)-1H-pyrrole-2-carboxylate | 5.26 mmoles, 1.98 g, 1 equiv | ClC=1C=CC(=C(CN2C(=CC(=C2)C(F)(F)F)C(=O)OCC)C1)[N+](=O)[O-] | C15H12ClF3N2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 7-chloro-2-(trifluoromethyl)-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | 0.613 g | ClC=1C=CC2=C(CN3C(C(N2)=O)=CC(=C3)C(F)(F)F)C1 | C13H8ClF3N2O
